US08629270B2
N-[(4aR,7aS)-6-(5-Fluoropyrimidin-2-yl)-7a-phenyl-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide
N,N,N′,N′-tetramethylguanidine (3.4 mL, 27 mmol) is added to a solution of N-[(4aR,7aS)-7a-phenyl-4a,5,6,7-tetrahydro-4H-pyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide (7.5 g, 22 mmol) and 5-fluoro-2-chloropyrimidine (3.5 g, 27 mmol) in dimethylsulfoxide (75 mL). The reaction is stirred at 100° C. for 2 hours, cooled to room temperature and water is added (225 mL). The precipitated product is isolated by filtration and is dried in a vacuum oven at 45° C. to give the title compound (9.5 g, 99%). ES/MS (m/e): 434 (M+H).

reactant | N,N,N′,N′-tetramethylguanidine | 27 mmol, 3.4 mL | CN(C(=N)N(C)C)C | C5H13N3
reactant | N-[(4aR,7aS)-7a-phenyl-4a,5,6,7-tetrahydro-4H-pyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide | 22 mmol, 7.5 g | C1(=CC=CC=C1)[C@@]12N=C(SC[C@@H]1CNC2)NC(C2=CC=CC=C2)=O | C19H19N3OS
reactant | 5-fluoro-2-chloropyrimidine | 27 mmol, 3.5 g | FC=1C=NC(=NC1)Cl | C4H2ClFN2
reactant | water | O | H2O
solvent | dimethylsulfoxide | 75 mL | CS(=O)C | C2H6OS
product | N-[(4aR,7aS)-6-(5-Fluoropyrimidin-2-yl)-7a-phenyl-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide | 9.5 g, 99% | FC=1C=NC(=NC1)N1C[C@@]2(N=C(SC[C@@H]2C1)NC(C1=CC=CC=C1)=O)C1=CC=CC=C1 | C23H20FN5OS
